US04879295
A solution of 2-(2-methoxyphenyl)-4-thiazolecarboxylic acid (250 mg) and N,N'-carbonyldimidazole (CDI, 207 mg) in dry DMF (2.5 ml) was allowed to react with stirring at room temperature for 1 hour. Then a solution of 5-aminotetrazole (109 mg) in dry DMF (1.5 ml) was added dropwise thereto and allowed to react at 70° C. for 2 hours. The solvent was removed from the mixture, and the residue was treated with water and acidified with 2N-HCl. The produced solids were filtered, washed with water, treated with stirring with ether, filtered again and dried to give white solids of the desired 2-(2-methoxyphenyl)-N-(1H-tetrazole-5-yl)-4-thiazolecarboxamide (255 mg, 79%).

reactant | 2-(2-methoxyphenyl)-4-thiazolecarboxylic acid | 250 mg | COC1=C(C=CC=C1)C=1SC=C(N1)C(=O)O | C11H9NO3S
reactant | 5-aminotetrazole | 109 mg | NC1=NN=NN1 | CH3N5
solvent | DMF | 2.5 ml | CN(C)C=O | C3H7NO
solvent | DMF | 1.5 ml | CN(C)C=O | C3H7NO
product | 2-(2-methoxyphenyl)-N-(1H-tetrazole-5-yl)-4-thiazolecarboxamide | 255 mg, 79% | COC1=C(C=CC=C1)C=1SC=C(N1)C(=O)NC1=NN=NN1 | C12H10N6O2S
